US08541407B2
A solution of 2-amino-N-(2-chloropyridin-3-yl)-5-methylbenzamide (2.515 g, 9.61 mmol) in sulfolane (15 mL) was treated with hydrogen chloride (0.25 mL, 1.0 mmol; 4N in dioxane). The reaction mixture was heated to 220° C. under microwave conditions for 8 minutes. The reaction mixture was then diluted with ethyl acetate (75 mL) and washed with water (5×50 mL). The organic layer (aqueous emulsion) was concentrated to give an aqueous slurry which was filtered and washed with water (50 mL). The product was dried under high vacuum at 60° C. to afford 8-methyl-5H-benzo[e]pyrido[3,2-b][1,4]diazepin-6(11H)-one (1.52 g) that was used without further purification. LCMS [M+H]: 226.

reactant | 2-amino-N-(2-chloropyridin-3-yl)-5-methylbenzamide | 9.61 mmol, 2.515 g | NC1=C(C(=O)NC=2C(=NC=CC2)Cl)C=C(C=C1)C | C13H12ClN3O
reactant | hydrogen chloride | 1.0 mmol, 4N, 0.25 mL | Cl | ClH
solvent | sulfolane | 15 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 8-methyl-5H-benzo[e]pyrido[3,2-b][1,4]diazepin-6(11H)-one | 1.52 g | CC1=CC2=C(NC3=C(NC2=O)C=CC=N3)C=C1 | C13H11N3O
